US07037905B2
2-(3-Bromophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
The title compound (77%, oil) was prepared from 3-bromophenylboronic acid and pinacol.

reactant | 3-bromophenylboronic acid | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | pinacol | OC(C)(C)C(C)(C)O | C6H14O2
product | 2-(3-Bromophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 77% | BrC=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C12H16BBrO2
